US06143764
N-(4-Ethylphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [188]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (51 mg) was dissolved in toluene (5 ml) with heat, 4-ethylphenyl isocyanate (0.2 ml) was added, and the admixture was refluxed with heat for 90 minutes. The resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 42 mg of the title compound (yield: 56%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 51 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 4-ethylphenyl isocyanate | 0.2 ml | C(C)C1=CC=C(C=C1)N=C=O | C9H9NO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-Ethylphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 42 mg, yield: 56% | C(C)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C26H25N3O4
